US04609670
A solution of 2.9 g (0.012 mol) of 1-bromo-2-(3-ethoxyphenyl)-2-oxoethane in 20 ml of acetonitrile was combined with 1.03 g (0.013 mol) of 1-methylimidazole and the resulting mixture was stirred at room temperature for approximately 18 hours. The mixture was diluted with methanol and the volatiles were evaporated under reduced pressure to a volume of approximately 15 ml. This solution was diluted with ethyl acetate and the precipitated brown solid was collected by filtration. The collected solid was washed with ethyl acetate and dissolved in hot acetonitrile. The mixture was purified with charcoal and upon cooling the solid was collected. The solid was recrystallized from acetonitrile/diethyl ether to provide two crops which were combined and recrystallized three times from isopropyl alcohol to afford 0.27 g of 1-methyl-3-[2-(3-ethoxyphenyl)-2-oxoethyl]-1H-imidazolium bromide as pale yellow flakes. (7% yield) mp=137°-138° C.

reactant | 1-bromo-2-(3-ethoxyphenyl)-2-oxoethane | 0.012 mol, 2.9 g | BrCC(=O)C1=CC(=CC=C1)OCC | C10H11BrO2
reactant | 1-methylimidazole | 0.013 mol, 1.03 g | CN1C=NC=C1 | C4H6N2
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
solvent | methanol | CO | CH4O
product | 1-methyl-3-[2-(3-ethoxyphenyl)-2-oxoethyl]-1H-imidazolium bromide | 0.27 g, 7% yield | [Br-].C[NH+]1CN(C=C1)CC(=O)C1=CC(=CC=C1)OCC | InChI=1S/C14H18N2O2.BrH/c1-3-18-13-6-4-5-12(9-13)14(17)10-16-8-7-15(2)11-16;/h4-9H,3,10-11H2,1-2H3;1H
